US07101898B2
93 mg of 5-(trifluoromethoxy)benzofuran-2-carboxylic acid were prepared as described for 5-(trifluoromethyl)benzofuran-2-carboxylic acid, using 4-(trifluoromethoxy)phenol instead of 4-(trifluoromethyl)phenol.

reactant | 5-(trifluoromethyl)benzofuran-2-carboxylic acid | FC(C=1C=CC2=C(C=C(O2)C(=O)O)C1)(F)F | C10H5F3O3
reactant | 4-(trifluoromethoxy)phenol | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
product | 5-(trifluoromethoxy)benzofuran-2-carboxylic acid | 93 mg | FC(OC=1C=CC2=C(C=C(O2)C(=O)O)C1)(F)F | C10H5F3O4
